US08227504B2
Benzo[1,3]dioxole-5-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with benzo[1,3]dioxole-5-carboxylic acid. MS: 422.5 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | benzo[1,3]dioxole-5-carboxylic acid | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
product | Benzo[1,3]dioxole-5-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)NC(=O)C1=CC2=C(OCO2)C=C1 | C25H31N3O3
